US09162992B2
A 2M HCl/ethyl ether (4.5 mL, 9.00 mmol) was added to the solution N-(4,6-bis-n-propylamino-[1,3,5]triazin-2-yl)-O-methyl-hydroxylamine (XLI) (2.17 g, 9.03 mmol) in 1,4-dioxane (5 mL) at 0° C. The mixture was stirred for 0.5 h at 0° C., volatiles were removed under reduced pressure to yield N-(4,6-bis-n-propylamino-[1,3,5]triazin-2-yl)-O-methyl-hydroxylamine hydrochloride (XLII) in quantitative yield. 400 MHz 1H NMR (DMSO-d6, ppm) 12.5-11.5 (2H, br s), 8.49 (1H, br s), 8.34 (1H, br s), 3.71 (3H, s), 3.34-3.16 (4H, m), 1.59-1.46 (4H, m), 0.94-0.83 (6H, m). ESI-MS (m/z) 241 [M+H]+.

reactant | HCl ethyl ether | 9.00 mmol, 2M, 4.5 mL | Cl.C(C)OCC
reactant | N-(4,6-bis-n-propylamino-[1,3,5]triazin-2-yl)-O-methyl-hydroxylamine | 9.03 mmol, 2.17 g | C(CC)NC1=NC(=NC(=N1)NCCC)NOC | C10H20N6O
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-(4,6-bis-n-propylamino-[1,3,5]triazin-2-yl)-O-methyl-hydroxylamine hydrochloride | quantitative yield | Cl.C(CC)NC1=NC(=NC(=N1)NCCC)NOC | InChI=1S/C10H20N6O.ClH/c1-4-6-11-8-13-9(12-7-5-2)15-10(14-8)16-17-3;/h4-7H2,1-3H3,(H3,11,12,13,14,15,16);1H
